* ldo_2 -- AnalogGym LDO on TSMC6 BSIM-CMG (LEVEL=72)
* Topology is the shipped one.  Geometry is re-designed for a 0.75 V
* rail, and the mim caps / poly resistors become ideal C and R because
* this TSMC6 view carries transistor models only.
.subckt ldo_2 gnd vdd vref vout vfb vinp Ib
NNM10 net42 Ib gnd gnd nulvt_l20_f2 m=2
NNM9 net37 vref net42 gnd nulvt_l36_f16 m=3
NNM8 net40 vinp net42 gnd nulvt_l90_f6 m=8
NNM7 net32 Ib gnd gnd nulvt_l16_f6 m=1
NNM6 net030 Ib gnd gnd nulvt_l90_f16 m=4
NNM4 net049 net20 gnd gnd nulvt_l120_f10 m=16
NNM3 net20 net20 gnd gnd nulvt_l180_f2 m=16
NNM2 net17 vref net030 gnd nulvt_l60_f6 m=6
NNM1 Ib Ib gnd gnd nulvt_l180_f6 m=3
NNM0 net14 net7 gnd gnd nulvt_l36_f10 m=11
NPM9 net40 net40 vdd vdd pulvt_l60_f3 m=4
NPM8 net37 net40 vdd vdd pulvt_l36_f4 m=6
NPM7 vfb net37 vdd vdd pulvt_l36_f10 m=4
NPM6 net32 net32 vfb vfb pulvt_l120_f10 m=96
NPM5 net030 net32 vout vout pulvt_l16_f6 m=11
NPM4 vout net049 vdd vdd pulvt_l120_f20 m=6000 $ pass device
NPM3 net049 net14 vdd vdd pulvt_l120_f6 m=32
NPM2 net20 net17 vdd vdd pulvt_l36_f20 m=16
NPM1 net17 net14 vdd vdd pulvt_l240_f16 m=5
NPM0 net14 net14 vdd vdd pulvt_l60_f6 m=32
RR0 Ib net7 100000   $ was XR0 (poly)
CC4 net37 gnd 2e-12   $ was XC4 (mim)
CC1 net17 vout 5.33333e-12   $ was XC1 (mim)
CC0 vout net7 1.33333e-12   $ was XC0 (mim)
.ends ldo_2
